2151-01-05 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2151-1-4**] 05:46 PM
 EKG - At [**2151-1-4**] 07:00 PM
 PICC LINE - START [**2151-1-4**] 07:10 PM
 BLOOD CULTURED - At [**2151-1-4**] 08:30 PM
   - changed sedation from propofol to versed/fentanyl (was restless on
   high dose of propofol)
   - overnight lactates trended to normal (was 7.2 immediately post-code)
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2151-1-4**] 08:35 PM
   Fentanyl - [**2151-1-4**] 08:35 PM
   Heparin Sodium (Prophylaxis) - [**2151-1-5**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-5**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.1
   HR: 67 (61 - 112) bpm
   BP: 119/52(68) {99/42(57) - 172/75(99)} mmHg
   RR: 14 (14 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.9 kg (admission): 67 kg
             Total In:
                                                                    184 mL
                                                                    430 mL
   PO:
             TF:
   IVF:
                                                                     64 mL
                                                                    430 mL
   Blood products:
   Total out:
                                                                    140 mL
                                                                    370 mL
   Urine:
                                                                    140 mL
                                                                    260 mL
   NG:
   110 mL
   Stool:
   Drains:
   Balance:
                                                                     44 mL
                                                                     60 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 679 (509 - 697) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 25
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: ///25/
   Ve: 12.2 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   Vent sounds)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   352 K/uL
   8.8 g/dL
   103 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.5 mEq/L
   29 mg/dL
   99 mEq/L
   132 mEq/L
   27.8 %
   17.5 K/uL
        [image002.jpg]
                             [**2151-1-4**]  06:16 PM
                             [**2151-1-4**]  11:59 PM
                             [**2151-1-5**]  03:27 AM
   WBC
   21.1
   17.5
   Hct
   30.8
   27.8
   Plt
   458
   352
   Cr
   0.9
   0.8
   TropT
   0.01
   0.04
   0.03
   Glucose
   209
   103
   Other labs: PT / PTT / INR:13.0/22.1/1.1, CK / CKMB /
   Troponin-T:254/4/0.03, ALT / AST:49/33, Alk Phos / T Bili:78/0.3,
   Differential-Neuts:94.0 %, Lymph:2.5 %, Mono:3.4 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:451 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Imaging: [**1-4**] CXR: ETT 3.6 cm from carina. R PICC unchanged Parenchymal
   opacities mildly worse than immed prior but better than [**12-31**] No PTX
   larg effusion GWlms
   Microbiology: Sputum, blood, urine cultures: Negative or pending
   Assessment and Plan
   89yof with h/o afib, PSVT, orthostatic hypotension admitted for
   recurrent syncope, with hypoxic concerning for pulm fibrosis from amio
   in setting of multifocal PNA, now transfered to MICU in setting of
   acutely worse resp distress requiring intubation.
   #. Hypoxia/Tachypnea: Likely multifactorial, including suspected
   amiodarone toxicity, mucous plugging, multifocal HAP. Good RSBI this
   morning but not oxygenating well on minimal vent settings. CXR stable,
   possibly improved from yesterday. WBC elevated but trending down.
   Afebrile. Does not appear volume overloaded.
   - continue intubation overnight, SBT +/- extubation today
   - continue nebs
   - continue abx for now- on cefepime, cipro, and vanco
   - f/u sputum culture data
   - continue methylprednisolone for suspected amio toxicity, will need to
   start taper soon
   #. Lactic Acidosis: Returned to [**Location 810**] overnight, after sharp increase
   in lactate to 7.2 immediately post-code. Likely [**12-29**] hypoperfusion in
   the setting of bradycardia and respiratory arrest. Now without anion
   gap. Low suspicion for sepsis, given negative/pending cultures,
   downtrending WBC, and afebrile state.
   - do not need to trend lactate any further
   - f/u BCx
   - continue cefepime, cipro, and vanco
   - pan culture
   - check for c. diff if WBC remains elevated and pt has significant
   stool output
   # Elevated CK: CK elevated but down trending. No ischemic ECG changes.
   Troponin peaked at 0.04.
   - do not need to trend CE further
   - continue ASA
   - will monitor BP
   - will hold phenlyephrine
   #. Anxiety: per son, this is relatively new. Pt had extreme anxiety on
   the floor.
   - Continue Prozac
   - will use midazolam/fentanyl for sedation which may calm pt since pt
   was not sedated with propofol
   #. AFIB, PSVT: Bradycardic during arrest yesterday, but in normal sinus
   rhythm now, on telemetry.
   - Continue telemetry
   - Continue ASA 325 mg
   #. Anemia: Chronic anemia, stable at hct of 30. Pt did have guaiac
   positive stool on admission
   - will monitor
   - Continue Fe supplementation
   - continue home PPI
   #. Orthostatic hypotension: pt currently intubated and not ambulatoruy
   - hold Florinef and phenylephrine  for now, consider restarting when
   patient ambulating
   #. FEN - NPO for now, if remains intubated will start tube feeds,
   consider swallow study once extubated
   #. Access - PIV and PICC
   #. PPx -  PPI
   -DVT ppx with pneumoboots and starting SQ hep
   -Bowel regimen colace, senna, miralax prn
    #. Communication - Family [**Doctor Last Name 837**] ([**Telephone/Fax (1) 13142**]) and [**Name (NI) 20**] (son)
   [**Name (NI) 653**] [**Telephone/Fax (1) 13143**].
   #. Code - Full Code (confirmed with patient and family)
   #. Dispo - ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-1-4**] 07:10 PM
   22 Gauge - [**2151-1-4**] 08:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points: 89F dementia, a-fib on amio, progressive lung
   ds, orthostatic hypotension/syncope admitted w/ syncope and hypoxia,
   followed by pulm and cards, likey amio lung ds had been improving with
   antibx/steroids transferred to ICU yesterday after respiratory
   near-arrest, (profound hypoxia, brady, hypotensive, never pulseless)
   now intubated.  Lactate normalized overnight.
   98.5   60-110 118/55  95%  16--> PS 5/5 60%  rsbi 25
   Sedated and intubated, follows simple commands
   crackles bilat
   2/6 SEM, RR
   Abd soft w/o tenderness
   no pedal edema
   WBC 17.5 (21, 12), HCT 27.8, Cr 0.8, trop 0.03, lactate 1.8, lfts wnl
   CXR w/ b/l parenchymal infiltrates on R > L
   Apparent primary resp arrest. Unclear precipitant, although acuitty and
   prompt recovery raises concern for aspiration or mucus plug, seems less
   likely unilateral pulm edema.  She remains HD stable since intubation.
   She is ventilating well and has RSBI of 25 but still needs sig FIO2 and
   peep to maintain sats. Will bronch for airway inspection, cleanout, and
   additional cxs.  Continue broad antbx following vanco trough. Continue
   steroids for suspected amio lung tocxicity. Continue current vent
   support.  Will check abg and continue MDIS.  Plan to repeat sbt w/
   possible extubation tomorrow.  [**Month (only) 51**] benefit from CPAP post-extubation.
   Sig leukocytosis possibly from steroids, f/u pending cx fdata and send
   stool for c diff.  She is anemic, on iron supp with stable hct.  Urine
   outpt decreased, with midlly elevated bun.  Will bolus IVF and follow.
   ICU:  boots, sq hep, PPI, PIV and picc. Full code.  Family updated
   during rounds.
   Remainder of plan as outlined in resident note.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2151-1-5**] 14:54 ------

2151-01-06 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2151-1-5**] 02:00 PM
   [**1-5**]
   - Bronch'd today, BAL sent
   - Sputum gram stain >25 PMNs, culture pending
   - BNP 9540
   - CE: CK 254, 293    MB 4    Tr 0.03, 0.02
   - Continued steroids for amio pulm toxicity
   - had 250 cc NS bolus today with improved urine output (20/30 cc -->
   60-80cc); continued on 50cc/hr maintainance fluid given NPO
   - Cdiff sent
   Allergies:
   Morphine
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2151-1-6**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-6**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.4
C (97.5
   HR: 60 (59 - 71) bpm
   BP: 122/48(65) {97/42(57) - 139/57(76)} mmHg
   RR: 16 (7 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.5 kg (admission): 67 kg
             Total In:
                                                                  1,601 mL
                                                                    414 mL
   PO:
             TF:
   IVF:
                                                                  1,541 mL
                                                                    414 mL
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                    435 mL
   Urine:
                                                                  1,135 mL
                                                                    435 mL
   NG:
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                    356 mL
                                                                    -21 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 812 (462 - 812) mL
   PS : 5 cmH2O
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 15
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.44/39/64/25/1
   Ve: 5.2 L/min
   PaO2 / FiO2: 107
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   200 K/uL
   9.3 g/dL
   119 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.9 mEq/L
   31 mg/dL
   104 mEq/L
   136 mEq/L
   28.1 %
   14.9 K/uL
        [image002.jpg]
                             [**2151-1-4**]  06:16 PM
                             [**2151-1-4**]  11:59 PM
                             [**2151-1-5**]  03:27 AM
                             [**2151-1-5**]  10:34 AM
                             [**2151-1-5**]  11:22 AM
                             [**2151-1-6**]  01:57 AM
   WBC
   21.1
   17.5
   14.9
   Hct
   30.8
   27.8
   28.1
   Plt
   458
   352
   200
   Cr
   0.9
   0.8
   1.0
   TropT
   0.01
   0.04
   0.03
   0.02
   TCO2
   27
   Glucose
   [**Telephone/Fax (3) 13174**]
   Other labs: PT / PTT / INR:13.0/22.1/1.1, CK / CKMB /
   Troponin-T:293/4/0.02, ALT / AST:49/33, Alk Phos / T Bili:78/0.3,
   Differential-Neuts:94.0 %, Lymph:2.5 %, Mono:3.4 %, Eos:0.1 %, Lactic
   Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:451 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 LEUKOCYTOSIS
 PNEUMONIA, OTHER
 ACIDOSIS, METABOLIC
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   pulmonary fibrosis
 BRADYCARDIA
 ANEMIA, OTHER
   89yof with h/o afib, PSVT, orthostatic hypotension admitted for
   recurrent syncope, with hypoxic concerning for pulm fibrosis from amio
   in setting of multifocal PNA, now transfered to MICU in setting of
   acutely worse resp distress requiring intubation.
   #. Hypoxia/Tachypnea: Likely multifactorial, including suspected
   amiodarone toxicity, mucous plugging, multifocal HAP. Good RSBI this
   morning but not oxygenating well on minimal vent settings. CXR stable,
   possibly improved from yesterday. WBC elevated but trending down.
   Afebrile. Does not appear volume overloaded.
   - continue intubation overnight, SBT +/- extubation today
   - continue nebs
   - continue abx for now- on cefepime, cipro, and vanco
   - f/u sputum culture data
   - continue methylprednisolone for suspected amio toxicity, will need to
   start taper soon
   #. Lactic Acidosis: Returned to [**Location 810**] overnight, after sharp increase
   in lactate to 7.2 immediately post-code. Likely [**12-29**] hypoperfusion in
   the setting of bradycardia and respiratory arrest. Now without anion
   gap. Low suspicion for sepsis, given negative/pending cultures,
   downtrending WBC, and afebrile state.
   - do not need to trend lactate any further
   - f/u BCx
   - continue cefepime, cipro, and vanco
   - pan culture
   - check for c. diff if WBC remains elevated and pt has significant
   stool output
   # Elevated CK: CK elevated but down trending. No ischemic ECG changes.
   Troponin peaked at 0.04.
   - do not need to trend CE further
   - continue ASA
   - will monitor BP
   - will hold phenlyephrine
   #. Anxiety: per son, this is relatively new. Pt had extreme anxiety on
   the floor.
   - Continue Prozac
   - will use midazolam/fentanyl for sedation which may calm pt since pt
   was not sedated with propofol
   #. AFIB, PSVT: Bradycardic during arrest yesterday, but in normal sinus
   rhythm now, on telemetry.
   - Continue telemetry
   - Continue ASA 325 mg
   #. Anemia: Chronic anemia, stable at hct of 30. Pt did have guaiac
   positive stool on admission
   - will monitor
   - Continue Fe supplementation
   - continue home PPI
   #. Orthostatic hypotension: pt currently intubated and not ambulatoruy
   - hold Florinef and phenylephrine  for now, consider restarting when
   patient ambulating
   #. FEN - NPO for now, if remains intubated will start tube feeds,
   consider swallow study once extubated
   #. Access - PIV and PICC
   #. PPx -  PPI
   -DVT ppx with pneumoboots and starting SQ hep
   -Bowel regimen colace, senna, miralax prn
    #. Communication - Family [**Doctor Last Name 837**] ([**Telephone/Fax (1) 13142**]) and [**Name (NI) 20**] (son)
   [**Name (NI) 653**] [**Telephone/Fax (1) 13143**].
   #. Code - Full Code (confirmed with patient and family)
   #. Dispo - ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-1-4**] 07:10 PM
   22 Gauge - [**2151-1-4**] 08:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points: 89F dementia, a-fib on amio, progressive lung
   ds, orthostatic hypotension/syncope admitted w/ syncope and hypoxia,
   followed by pulm and cards, likey amio lung ds had been improving with
   antibx/steroids transferred to ICU yesterday after respiratory
   near-arrest, (profound hypoxia, brady, hypotensive, never pulseless)
   now intubated.  Lactate normalized overnight.
   98.5   60-110 118/55  95%  16--> PS 5/5 60%  rsbi 25
   Sedated and intubated, follows simple commands
   crackles bilat
   2/6 SEM, RR
   Abd soft w/o tenderness
   no pedal edema
   WBC 17.5 (21, 12), HCT 27.8, Cr 0.8, trop 0.03, lactate 1.8, lfts wnl
   CXR w/ b/l parenchymal infiltrates on R > L
   Apparent primary resp arrest. Unclear precipitant, although acuitty and
   prompt recovery raises concern for aspiration or mucus plug, seems less
   likely unilateral pulm edema.  She remains HD stable since intubation.
   She is ventilating well and has RSBI of 25 but still needs sig FIO2 and
   peep to maintain sats. Will bronch for airway inspection, cleanout, and
   additional cxs.  Continue broad antbx following vanco trough. Continue
   steroids for suspected amio lung tocxicity. Continue current vent
   support.  Will check abg and continue MDIS.  Plan to repeat sbt w/
   possible extubation tomorrow.  [**Month (only) 51**] benefit from CPAP post-extubation.
   Sig leukocytosis possibly from steroids, f/u pending cx fdata and send
   stool for c diff.  She is anemic, on iron supp with stable hct.  Urine
   outpt decreased, with midlly elevated bun.  Will bolus IVF and follow.
   ICU:  boots, sq hep, PPI, PIV and picc. Full code.  Family updated
   during rounds.
   Remainder of plan as outlined in resident note.
   Patient is critically ill
   Total time: 50 min
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-1-4**] 07:10 PM
   20 Gauge - [**2151-1-5**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2151-01-08 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Tube feeds started
   - Discussed CT with rads--believe imaging is c/w acute (CHF
   exacerbation) on chronic (amiodarone toxicity) processes
   - Emailed Dr. [**Last Name (STitle) **] [**Last Name (STitle) **]: amio --> ****
   - Evening ABG with PO2 of 72; turned FiO2 back up to 60% -> PO2 155
   - Slow maintenance fluids overnight for decreased UOP and rising
   BUN/creat
   - 3 AM gas 7.28/57/74; switched to A/C, FiO2 60%, VT 550, RR 22, PEEP
   10; maintenance IVF continued as patient seemed dry, CXR stable
   Allergies:
   Morphine
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2151-1-7**] 08:32 AM
   Cefipime - [**2151-1-7**] 12:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2151-1-7**] 07:30 PM
   Fentanyl - [**2151-1-7**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-8**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.9
C (96.7
   HR: 66 (65 - 79) bpm
   BP: 95/62(77) {95/39(66) - 140/62(85)} mmHg
   RR: 14 (7 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.9 kg (admission): 67 kg
   Height: 65 Inch
             Total In:
                                                                  1,700 mL
                                                                    879 mL
   PO:
             TF:
                                                                    392 mL
                                                                    355 mL
   IVF:
                                                                  1,128 mL
                                                                    524 mL
   Blood products:
   Total out:
                                                                    836 mL
                                                                    226 mL
   Urine: 20-30cc/hr, started NS @ 50
                                                                    836 mL
                                                                    221 mL
   NG:
   5 mL
   Stool:
   Drains:
   Balance:
                                                                    864 mL
                                                                    653 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 770 (492 - 857) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   SpO2: 96%
   ABG: 7.40/41/106/22/0
   Ve: 9 L/min
   PaO2 / FiO2: 265
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   334 K/uL
   9.3 g/dL
   241 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.7 mEq/L
   46 mg/dL
   106 mEq/L
   137 mEq/L
   29.6 %
   18.4 K/uL
        [image002.jpg]
   BAL negative
   Sputum negative, + yeast
   BCx NGTD ([**2151-1-4**])
                             [**2151-1-7**]  02:48 AM
                             [**2151-1-7**]  08:04 AM
                             [**2151-1-7**]  05:56 PM
                             [**2151-1-7**]  07:53 PM
                             [**2151-1-7**]  09:14 PM
                             [**2151-1-8**]  03:00 AM
                             [**2151-1-8**]  03:04 AM
                             [**2151-1-8**]  04:25 AM
                             [**2151-1-8**]  05:20 AM
                             [**2151-1-8**]  06:25 AM
   WBC
   18.4
   Hct
   29.6
   Plt
   334
   Cr
   1.3
   TCO2
   28
   25
   23
   25
   26
   28
   24
   24
   26
   Glucose
   135
   242
   241
   Other labs: PT / PTT / INR:13.8/24.8/1.2, CK / CKMB /
   Troponin-T:293/4/0.02, ALT / AST:49/33, Alk Phos / T Bili:78/0.3,
   Differential-Neuts:94.0 %, Lymph:2.5 %, Mono:3.4 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:451 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   89F intubated for worsening respiratory distress, hypoxia. H/o AFib, on
   Amio for 6 years, orthostatic hypotension requiring mineralcorticoid
   treatments.
   #. Hypoxia/Tachypnea: Not able to wean off ventilator, as changes in
   FiO2 suggest increased PEEP. BUN/creatinine rising, and patient not
   fluid overloaded, so further diuresis is unlikely to beneficial. [**Month (only) 51**]
   have Amiodarone toxicity/fibrosis, as previously discussed, although
   steroids have not proven beneficial yet. Also treating for PNA, given
   low grade temps and leukocytosis.
   - continue steroids (day 6), if ultimate dx is amio toxicity she will
   be on steroids 2-6 months
   - will touch base with primary pulmonologist re: treatment for ?IPF
   - continue intubation, nebs
   - continue cefepime and vanco for now for 8 day course although low
   suspicion for infectious/pneumonia processes
   - f/u sputum cultures
   - Vanco trough of 15-20
   - PM ABG, lytes
   #. AFIB: Continues to be in sinus rhythm off amio
   - Continue telemetry
   - Continue ASA 325 mg
   - If develops AF, rate control with beta blocker
   # Leukocytosis: [**Month (only) 51**] be partially [**12-29**] steroid effect, but need to
   consider infection, given low grade temperatures.
   - will monitor for now
 if develops localizing symptoms, would
   consider CDiff toxin and blood cultures
   #. Anemia: Chronic anemia, stable at hct of 30. Pt did have guaiac
   positive stool on admission
   - will monitor
   - Continue Fe supplementation
   - continue home PPI
   #. Orthostatic hypotension: pt intubated and not ambulatory
   - hold Florinef and phenylephrine  for now, consider restarting when
   patient ambulating
   #. FEN
tube feeds per nutrition recs
   #. Access - PIV and PICC, and A Line
   #. PPx -  PPI, SQ hep, Bowel regimen colace, senna, miralax prn
    #. Communication - Family [**Doctor Last Name 837**] ([**Telephone/Fax (1) 13142**]) and [**Name (NI) 20**] (son)
   [**Name (NI) 653**] [**Telephone/Fax (1) 13143**].  Will touch base with son today.
   #. [**Name2 (NI) 36**] - Full Code (confirmed with patient and family)
   #. Dispo - ICU for now
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 LEUKOCYTOSIS
 PNEUMONIA, OTHER
 ACIDOSIS, METABOLIC
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   pulmonary fibrosis
 BRADYCARDIA
 ANEMIA, OTHER
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-8**] 04:15 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-1-4**] 07:10 PM
   20 Gauge - [**2151-1-5**] 08:00 PM
   Arterial Line - [**2151-1-6**] 03:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2151-01-09 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-8**]:
   - LDH continues to trend up 537 <-- 451 <-- 354 <-- 258 s/o no
   improvement in amio toxicity
   - Was going to cut back on supplements but given recent cervical
   fracture, continuing Vit D, Calcium and Thiamine
   - Updated son who is very reasonable. Would like family meeting next
   Wed when wife back from seeing her ill parents to discuss long-term
   goals
   - Patient on PSV overnight, PEEP 8-->10
   Allergies:
   Morphine
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2151-1-8**] 08:00 AM
   Cefipime - [**2151-1-8**] 12:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-1-9**] 01:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-9**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 77 (62 - 78) bpm
   BP: 127/46(72) {72/33(52) - 135/57(86)} mmHg
   RR: 21 (9 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.9 kg (admission): 67 kg
   Height: 65 Inch
             Total In:
                                                                  2,855 mL
                                                                    553 mL
   PO:
             TF:
                                                                  1,510 mL
                                                                    371 mL
   IVF:
                                                                  1,345 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                    949 mL
                                                                    220 mL
   Urine:
                                                                    944 mL
                                                                    220 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  1,906 mL
                                                                    333 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 662 (662 - 800) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.39/41/117/24/0
   Ve: 7.8 L/min
   PaO2 / FiO2: 293
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   313 K/uL
   8.5 g/dL
   52 mg/dL
   1.2 mg/dL
   24 mEq/L
   4.8 mEq/L
   49 mg/dL
   110 mEq/L
   142 mEq/L
   26.7 %
   19.9 K/uL
        [image002.jpg]
                             [**2151-1-8**]  11:47 AM
                             [**2151-1-8**]  01:00 PM
                             [**2151-1-8**]  01:29 PM
                             [**2151-1-8**]  03:00 PM
                             [**2151-1-8**]  05:00 PM
                             [**2151-1-8**]  05:42 PM
                             [**2151-1-8**]  06:00 PM
                             [**2151-1-8**]  09:00 PM
                             [**2151-1-9**]  12:42 AM
                             [**2151-1-9**]  03:36 AM
   WBC
   19.9
   Hct
   26.7
   Plt
   313
   Cr
   1.2
   TCO2
   24
   26
   26
   Glucose
   [**Telephone/Fax (3) 13291**]
   52
   Other labs: PT / PTT / INR:13.7/25.3/1.2, CK / CKMB /
   Troponin-T:293/4/0.02, ALT / AST:49/33, Alk Phos / T Bili:78/0.3,
   Differential-Neuts:94.0 %, Lymph:2.5 %, Mono:3.4 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:499 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.5 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   Assessment and Plan
   89F intubated for worsening respiratory distress, hypoxia. H/o AFib, on
   Amio for 6 years, orthostatic hypotension requiring mineralcorticoid
   treatments.
   #. Hypoxia/Tachypnea: Not able to wean off ventilator, as changes in
   FiO2 suggest increased PEEP. BUN/creatinine rising, and patient not
   fluid overloaded, so further diuresis is unlikely to beneficial. [**Month (only) 51**]
   have Amiodarone toxicity/fibrosis, as previously discussed, although
   steroids have not proven beneficial yet. Also treating for PNA, given
   low grade temps and leukocytosis.
   - continue steroids (day 6), if ultimate dx is amio toxicity she will
   be on steroids 2-6 months
   - will touch base with primary pulmonologist re: treatment for ?IPF
   - continue intubation, nebs
   - continue cefepime and vanco for now for 8 day course although low
   suspicion for infectious/pneumonia processes
   - f/u sputum cultures
   - Vanco trough of 15-20
   - PM ABG, lytes
   #. AFIB: Continues to be in sinus rhythm off amio
   - Continue telemetry
   - Continue ASA 325 mg
   - If develops AF, rate control with beta blocker
   # Leukocytosis: [**Month (only) 51**] be partially [**12-29**] steroid effect, but need to
   consider infection, given low grade temperatures.
   - will monitor for now
 if develops localizing symptoms, would
   consider CDiff toxin and blood cultures
   #. Anemia: Chronic anemia, stable at hct of 30. Pt did have guaiac
   positive stool on admission
   - will monitor
   - Continue Fe supplementation
   - continue home PPI
   #. Orthostatic hypotension: pt intubated and not ambulatory
   - hold Florinef and phenylephrine  for now, consider restarting when
   patient ambulating
   #. FEN
tube feeds per nutrition recs
   #. Access - PIV and PICC, and A Line
   #. PPx -  PPI, SQ hep, Bowel regimen colace, senna, miralax prn
    #. Communication - Family [**Doctor Last Name 837**] ([**Telephone/Fax (1) 13142**]) and [**Name (NI) 20**] (son)
   [**Name (NI) 653**] [**Telephone/Fax (1) 13143**].  Will touch base with son today.
   #. [**Name2 (NI) 36**] - Full Code (confirmed with patient and family)
   #. Dispo - ICU for now
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 LEUKOCYTOSIS
 PNEUMONIA, OTHER
 ACIDOSIS, METABOLIC
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   pulmonary fibrosis
 BRADYCARDIA
 ANEMIA, OTHER
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-9**] 05:38 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-1-4**] 07:10 PM
   20 Gauge - [**2151-1-5**] 08:00 PM
   Arterial Line - [**2151-1-6**] 03:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2151-01-09 10:02:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Weaned to PSV
   -Abx discontinued
   History obtained from Medical records
   Allergies:
   Morphine
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2151-1-8**] 08:00 AM
   Cefipime - [**2151-1-8**] 12:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-9**] 08:55 AM
   Heparin Sodium (Prophylaxis) - [**2151-1-9**] 08:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-9**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.3
C (99.1
   HR: 78 (62 - 80) bpm
   BP: 112/56(78) {72/33(52) - 135/57(86)} mmHg
   RR: 19 (9 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.9 kg (admission): 67 kg
   Height: 65 Inch
             Total In:
                                                                  2,855 mL
                                                                    825 mL
   PO:
             TF:
                                                                  1,510 mL
                                                                    490 mL
   IVF:
                                                                  1,345 mL
                                                                    335 mL
   Blood products:
   Total out:
                                                                    949 mL
                                                                    305 mL
   Urine:
                                                                    944 mL
                                                                    305 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  1,906 mL
                                                                    520 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 585 (585 - 800) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: 7.39/41/117/24/0
   Ve: 6.8 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   313 K/uL
   52 mg/dL
   1.2 mg/dL
   24 mEq/L
   4.8 mEq/L
   49 mg/dL
   110 mEq/L
   142 mEq/L
   26.7 %
   19.9 K/uL
        [image002.jpg]
                             [**2151-1-8**]  11:47 AM
                             [**2151-1-8**]  01:00 PM
                             [**2151-1-8**]  01:29 PM
                             [**2151-1-8**]  03:00 PM
                             [**2151-1-8**]  05:00 PM
                             [**2151-1-8**]  05:42 PM
                             [**2151-1-8**]  06:00 PM
                             [**2151-1-8**]  09:00 PM
                             [**2151-1-9**]  12:42 AM
                             [**2151-1-9**]  03:36 AM
   WBC
   19.9
   Hct
   26.7
   Plt
   313
   Cr
   1.2
   TCO2
   24
   26
   26
   Glucose
   [**Telephone/Fax (2) 13291**]
   52
   Other labs: PT / PTT / INR:13.7/25.3/1.2, CK / CKMB /
   Troponin-T:293/4/0.02, ALT / AST:49/33, Alk Phos / T Bili:78/0.3,
   Differential-Neuts:94.0 %, Lymph:2.5 %, Mono:3.4 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:499 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.5 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   -leading dx amiodarone toxicity
   -amio d/c but given very long half life will be on board for months to
   come
   -steroids started
 no sig improvement noted so far
   -FOB/BAL pending
 looking esp for presence of foamy macrophages
 ? pulmonary fibrosis
   -          no real evidence of fibrosis on CT chest so unlikely
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-9**] 05:38 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-1-4**] 07:10 PM
   20 Gauge - [**2151-1-5**] 08:00 PM
   Arterial Line - [**2151-1-6**] 03:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2151-01-10 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2151-1-9**] 11:00 AM
 URINE CULTURE - At [**2151-1-9**] 11:00 AM
   - Weaning as tolerated
   - blood, urine cx, C Diff, sent for T 100.9 at 05:00
   - otherwise afebrile; off Cefepime and Vanco after 7 days for ?PNA
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2151-1-8**] 08:00 AM
   Cefipime - [**2151-1-8**] 12:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-9**] 08:55 AM
   Heparin Sodium (Prophylaxis) - [**2151-1-9**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-10**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.9
   HR: 77 (72 - 86) bpm
   BP: 86/76(81) {63/41(55) - 140/127(130)} mmHg
   RR: 18 (8 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.9 kg (admission): 67 kg
   Height: 65 Inch
             Total In:
                                                                  1,914 mL
                                                                    550 mL
   PO:
             TF:
                                                                  1,204 mL
                                                                    369 mL
   IVF:
                                                                    710 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                    820 mL
                                                                    300 mL
   Urine:
                                                                    820 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,094 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 724 (585 - 981) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 18 cmH2O
   SpO2: 94%
   ABG: 7.42/39/92.[**Numeric Identifier 132**]/27/0
   Ve: 9 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   299 K/uL
   8.7 g/dL
   83 mg/dL
   1.3 mg/dL
   27 mEq/L
   5.3 mEq/L
   58 mg/dL
   110 mEq/L
   143 mEq/L
   27.0 %
   20.7 K/uL
        [image002.jpg]
                             [**2151-1-8**]  03:00 PM
                             [**2151-1-8**]  05:00 PM
                             [**2151-1-8**]  05:42 PM
                             [**2151-1-8**]  06:00 PM
                             [**2151-1-8**]  09:00 PM
                             [**2151-1-9**]  12:42 AM
                             [**2151-1-9**]  03:36 AM
                             [**2151-1-9**]  10:53 AM
                             [**2151-1-9**]  04:34 PM
                             [**2151-1-10**]  02:12 AM
   WBC
   19.9
   20.7
   Hct
   26.7
   27.0
   Plt
   313
   299
   Cr
   1.2
   1.3
   1.3
   TCO2
   26
   26
   26
   Glucose
   287
   281
   273
   121
   52
   167
   83
   Other labs: PT / PTT / INR:12.6/23.8/1.1, CK / CKMB /
   Troponin-T:293/4/0.02, ALT / AST:49/33, Alk Phos / T Bili:78/0.3,
   Differential-Neuts:94.0 %, Lymph:2.5 %, Mono:3.4 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:499 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.7 mg/dL, PO4:2.2 mg/dL
   Imaging: [**1-9**] CXR: Compared to the film from the prior day, there is no
   significant interval
   change.
   [**1-8**] CXR: As compared to the previous examination, the monitoring and
   support devices are unchanged. The lung volumes have minimally
   decreased. As a consequence, the pre-existing bilateral parenchymal
   opacities appear less dense. No interval recurrence of new parenchymal
   opacities. No evidence of pleural effusions. Unchanged size of the
   cardiac silhouette.
   Microbiology: [**1-9**] BCx, UCx: Pending
   [**1-5**] BAL: Negative
   [**1-4**] Sputum: Rare yeast
   Assessment and Plan
   89F intubated for worsening respiratory distress, hypoxia, on steroids
   for suspected Amiodarone lung toxicity.
   #. Hypoxia/Tachypnea: ABG
s good this morning on 8 and 8 of PSV, 40%
   FiO2. Minimal secretions. Can consider extubation today, but need to
   clarify with family patient
s wishes regarding re-intubation if
   needed.  Still on steroids for ? amio toxicity, but now off ABx, after
   seven day course. CXR showing stable fluffy opacities.
   - Consider extubation after touching base with family.
   - Continue steroids, if ultimate dx is amio toxicity she will be on
   steroids 2-6 months
   - f/u sputum cultures
   - PM ABG, lytes
   #. AFIB: Continues to be in sinus rhythm off amio
   - Continue telemetry
   - Continue ASA 325 mg
   - If develops AF, rate control with beta blocker
   # Leukocytosis: [**Month (only) 51**] be partially [**12-29**] steroid effect, but WBC continues
   to rise and patient now febrile. LDH also high and concerning for PCP,
   [**Name10 (NameIs) **] patient is not immuno-compromised at b/l. Of note she is
   allergic to Bactrim, d/w team whether to cover empirically for PCP.
   [**Name Initial (NameIs) **] [**Name11 (NameIs) 1098**] [**Name12 (NameIs) **] toxin
   - blood cultures
   # [**Last Name (un) **]: Creatinine increased with diuresis. Has some mild peripheral
   edema but may still be intravascularly depleted.
   - OK to bolus conservatively if appears dry or BUN/creatinine continues
   to rise
   # Hyperkalemia: K+ slowly creeping up in setting of [**Last Name (un) **]. 5.3 this
   morning.
   - Kayexelate x 1 now
   - Recheck lytes this afternoon
   # Hyperglycemia: Well controlled, actually borderline hypoglycemic this
   morning.
   - D/c insulin gtt, will change to NPH for now
   #. Anemia: Chronic anemia, stable in high 20
s. Hemodynamically stable.
   - will monitor daily
   - Continue Fe supplementation
   - continue home PPI
   #. Orthostatic hypotension: pt intubated and not ambulatory
   - hold Florinef and phenylephrine  for now, consider restarting when
   patient ambulating
   #. FEN
tube feeds per nutrition recs. Given recent cervical fracture,
   continuing Vit D, Calcium and Thiamine
   #. Access
 PICC line. Lost A line this morning. Can try for additional
   peripheral IV
   #. PPx -  PPI, SQ hep, Bowel regimen colace, senna, miralax prn
   #. Communication - Family [**Doctor Last Name 837**] ([**Telephone/Fax (1) 13142**]) and [**Name (NI) 20**] (son) [**Name (NI) 653**]
   [**Telephone/Fax (1) 13143**].  Will touch base with son today.
   #. [**Name2 (NI) 36**] - Full Code (confirmed with patient and family)
   #. Dispo - ICU for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-10**] 05:04 AM 50.[**Telephone/Fax (5) 13312**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-1-4**] 07:10 PM
   Arterial Line - [**2151-1-6**] 03:51 PM
   20 Gauge - [**2151-1-10**] 02:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2151-01-10 10:45:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2151-1-9**] 11:00 AM
 URINE CULTURE - At [**2151-1-9**] 11:00 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2151-1-8**] 08:00 AM
   Cefipime - [**2151-1-8**] 12:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-1-9**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-10**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 73 (72 - 86) bpm
   BP: 84/71(76) {63/41(55) - 140/127(130)} mmHg
   RR: 21 (8 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.9 kg (admission): 67 kg
   Height: 65 Inch
             Total In:
                                                                  1,914 mL
                                                                    795 mL
   PO:
             TF:
                                                                  1,204 mL
                                                                    530 mL
   IVF:
                                                                    710 mL
                                                                    265 mL
   Blood products:
   Total out:
                                                                    820 mL
                                                                    430 mL
   Urine:
                                                                    820 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,094 mL
                                                                    365 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 658 (658 - 981) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 18 cmH2O
   SpO2: 94%
   ABG: 7.42/39/92.[**Numeric Identifier 132**]/27/0
   Ve: 9.1 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterior exam)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   299 K/uL
   83 mg/dL
   1.3 mg/dL
   27 mEq/L
   5.3 mEq/L
   58 mg/dL
   110 mEq/L
   143 mEq/L
   27.0 %
   20.7 K/uL
        [image002.jpg]
                             [**2151-1-8**]  03:00 PM
                             [**2151-1-8**]  05:00 PM
                             [**2151-1-8**]  05:42 PM
                             [**2151-1-8**]  06:00 PM
                             [**2151-1-8**]  09:00 PM
                             [**2151-1-9**]  12:42 AM
                             [**2151-1-9**]  03:36 AM
                             [**2151-1-9**]  10:53 AM
                             [**2151-1-9**]  04:34 PM
                             [**2151-1-10**]  02:12 AM
   WBC
   19.9
   20.7
   Hct
   26.7
   27.0
   Plt
   313
   299
   Cr
   1.2
   1.3
   1.3
   TCO2
   26
   26
   26
   Glucose
   287
   281
   273
   121
   52
   167
   83
   Other labs: PT / PTT / INR:12.6/23.8/1.1, CK / CKMB /
   Troponin-T:293/4/0.02, ALT / AST:49/33, Alk Phos / T Bili:78/0.3,
   Differential-Neuts:94.0 %, Lymph:2.5 %, Mono:3.4 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:499 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   -leading dx amiodarone toxicity
   -amio d/c but given very long half life will be on board for months to
   come
   -steroids started
 no sig improvement noted so far
   -FOB/BAL pending
 looking esp for presence of foamy macrophages
   -some improvement in FiO2 requirement
   -check ABG
   -wean vent as tolerated
 ? pulmonary fibrosis
   -no real evidence of fibrosis on CT chest so unlikely
 Afib
   remains in NSR
 Leukocytosis
   -slow rise - 20 today
   -afebrile last 24hr
   -cx data pending
 ANEMIA
   -hct stable
Hyperkalemia
   -slowly climbing 5.3 today
   -check EKG
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-10**] 05:04 AM 50.[**Telephone/Fax (5) 13312**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-1-4**] 07:10 PM
   Arterial Line - [**2151-1-6**] 03:51 PM
   20 Gauge - [**2151-1-10**] 02:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill

2151-01-11 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2151-1-10**] 10:03 AM
 EKG - At [**2151-1-10**] 06:21 PM
   - AM ABG: 7.43/47/106/32
   - Given kayexelate for K+ 5.3. PM lytes: K+ up to 5.9 -> 30 g
   kayexelate and 2 g CaGluc -> K+ 4.6
   - patient appearing anxious and desatting when weaned to [**3-31**]. SBT
   cancelled and settings turned back up; discussed situation with son,
   who is keeping very realistic view of situation, knows that mother may
   not recover
   - [**Name (NI) **] placed for increased stool output
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2151-1-8**] 08:00 AM
   Cefipime - [**2151-1-8**] 12:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-11**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 76 (70 - 86) bpm
   BP: 118/38(60) {112/35(55) - 170/64(91)} mmHg
   RR: 16 (11 - 22) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.9 kg (admission): 67 kg
   Height: 65 Inch
             Total In:
                                                                  1,256 mL
                                                                    157 mL
   PO:
             TF:
                                                                    630 mL
   IVF:
                                                                    625 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    725 mL
   Urine:
                                                                    935 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    321 mL
                                                                   -568 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 666 (317 - 669) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 15 cmH2O
   SpO2: 92%
   ABG: 7.43/47/106/29/5
   Ve: 6.8 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   310 K/uL
   8.2 g/dL
   179 mg/dL
   1.1 mg/dL
   29 mEq/L
   4.6 mEq/L
   57 mg/dL
   110 mEq/L
   147 mEq/L
   26.9 %
   20.6 K/uL
        [image002.jpg]
                             [**2151-1-8**]  06:00 PM
                             [**2151-1-8**]  09:00 PM
                             [**2151-1-9**]  12:42 AM
                             [**2151-1-9**]  03:36 AM
                             [**2151-1-9**]  10:53 AM
                             [**2151-1-9**]  04:34 PM
                             [**2151-1-10**]  02:12 AM
                             [**2151-1-10**]  10:51 AM
                             [**2151-1-10**]  03:35 PM
                             [**2151-1-11**]  02:35 AM
   WBC
   19.9
   20.7
   20.6
   Hct
   26.7
   27.0
   26.9
   Plt
   [**Telephone/Fax (3) 13335**]
   Cr
   1.2
   1.3
   1.3
   1.2
   1.1
   TCO2
   26
   26
   32
   Glucose
   273
   121
   52
   167
   83
   165
   179
   Other labs: PT / PTT / INR:12.8/27.1/1.1, CK / CKMB /
   Troponin-T:293/4/0.02, ALT / AST:49/33, Alk Phos / T Bili:78/0.3,
   Differential-Neuts:95.3 %, Lymph:1.6 %, Mono:2.9 %, Eos:0.0 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:499 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.2 mg/dL
   Imaging: [**1-10**] CXR: An ET tube or tracheostomy is present, tip in
   satisfactory position
   approximately 2.2 cm above the carina. An NG tube is present, tip
   beneath
   diaphragm overlying fundus.
   There is diffuse patchy increase of interstitial markings in both
   lungs,
   unchanged compared with [**2150-12-29**]. No gross effusion. Differential
   includes
   chronic interstitial disease with or without superimposed infectious
   process.
   Doubt CHF. No frank consolidation is identified. Osteopenia, scoliosis
   and
   degenerative changes of the mid thoracic spine, mild wedging of a lower
   thoracic body (?T10), and a right proximal humerus prosthesis all
   noted.
   Microbiology: [**1-11**] C. Diff: Pending
   [**1-9**] BCx: Pending
   [**1-9**] UCx: Negative
   Assessment and Plan
   89F intubated for worsening respiratory distress, hypoxia, on steroids
   for suspected Amiodarone lung toxicity.
   #. Hypoxia/Tachypnea: ABG
s good this morning on 8 and 8 of PSV, 40%
   FiO2. Minimal secretions. Can consider extubation today, but need to
   clarify with family patient
s wishes regarding re-intubation if
   needed.  Still on steroids for ? amio toxicity, but now off ABx, after
   seven day course. CXR showing stable fluffy opacities.
   - Consider extubation after touching base with family.
   - Continue steroids, if ultimate dx is amio toxicity she will be on
   steroids 2-6 months
   - f/u sputum cultures
   - PM ABG, lytes
   #. AFIB: Continues to be in sinus rhythm off amio
   - Continue telemetry
   - Continue ASA 325 mg
   - If develops AF, rate control with beta blocker
   # Leukocytosis: [**Month (only) 51**] be partially [**12-29**] steroid effect, but WBC continues
   to rise and patient now febrile. LDH also high and concerning for PCP,
   [**Name10 (NameIs) **] patient is not immuno-compromised at b/l. Of note she is
   allergic to Bactrim, d/w team whether to cover empirically for PCP.
   [**Name Initial (NameIs) **] [**Name11 (NameIs) 1098**] [**Name12 (NameIs) **] toxin
   - blood cultures
   # [**Last Name (un) **]: Creatinine increased with diuresis. Has some mild peripheral
   edema but may still be intravascularly depleted.
   - OK to bolus conservatively if appears dry or BUN/creatinine continues
   to rise
   # Hyperkalemia: K+ slowly creeping up in setting of [**Last Name (un) **]. 5.3 this
   morning.
   - Kayexelate x 1 now
   - Recheck lytes this afternoon
   # Hyperglycemia: Well controlled, actually borderline hypoglycemic this
   morning.
   - D/c insulin gtt, will change to NPH for now
   #. Anemia: Chronic anemia, stable in high 20
s. Hemodynamically stable.
   - will monitor daily
   - Continue Fe supplementation
   - continue home PPI
   #. Orthostatic hypotension: pt intubated and not ambulatory
   - hold Florinef and phenylephrine  for now, consider restarting when
   patient ambulating
   #. FEN
tube feeds per nutrition recs. Given recent cervical fracture,
   continuing Vit D, Calcium and Thiamine
   #. Access
 PICC line. Lost A line this morning. Can try for additional
   peripheral IV
   #. PPx -  PPI, SQ hep, Bowel regimen colace, senna, miralax prn
   #. Communication - Family [**Doctor Last Name 837**] ([**Telephone/Fax (1) 13142**]) and [**Name (NI) 20**] (son) [**Name (NI) 653**]
   [**Telephone/Fax (1) 13143**].  Will touch base with son today.
   #. [**Name2 (NI) 36**] - Full Code (confirmed with patient and family)
   #. Dispo - ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-1-4**] 07:10 PM
   20 Gauge - [**2151-1-10**] 02:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-01-11 10:06:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2151-1-10**] 10:03 AM
 EKG - At [**2151-1-10**] 06:21 PM
 Failed SBT - rapid desaturation/agitation caused termination of trial
   Allergies:
   Morphine
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2151-1-8**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-11**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 76 (70 - 86) bpm
   BP: 124/41(63) {112/35(55) - 170/64(91)} mmHg
   RR: 13 (13 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.9 kg (admission): 67 kg
   Height: 65 Inch
             Total In:
                                                                  1,256 mL
                                                                    196 mL
   PO:
             TF:
                                                                    630 mL
   IVF:
                                                                    625 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    885 mL
   Urine:
                                                                    935 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    321 mL
                                                                   -689 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 617 (317 - 669) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 14 cmH2O
   SpO2: 93%
   ABG: 7.43/47/106/29/5
   Ve: 10 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anterior exam)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   310 K/uL
   179 mg/dL
   1.1 mg/dL
   29 mEq/L
   4.6 mEq/L
   57 mg/dL
   110 mEq/L
   147 mEq/L
   26.9 %
   20.6 K/uL
        [image002.jpg]
                             [**2151-1-8**]  06:00 PM
                             [**2151-1-8**]  09:00 PM
                             [**2151-1-9**]  12:42 AM
                             [**2151-1-9**]  03:36 AM
                             [**2151-1-9**]  10:53 AM
                             [**2151-1-9**]  04:34 PM
                             [**2151-1-10**]  02:12 AM
                             [**2151-1-10**]  10:51 AM
                             [**2151-1-10**]  03:35 PM
                             [**2151-1-11**]  02:35 AM
   WBC
   19.9
   20.7
   20.6
   Hct
   26.7
   27.0
   26.9
   Plt
   [**Telephone/Fax (3) 13335**]
   Cr
   1.2
   1.3
   1.3
   1.2
   1.1
   TCO2
   26
   26
   32
   Glucose
   273
   121
   52
   167
   83
   165
   179
   Other labs: PT / PTT / INR:12.8/27.1/1.1, CK / CKMB /
   Troponin-T:293/4/0.02, ALT / AST:49/33, Alk Phos / T Bili:78/0.3,
   Differential-Neuts:95.3 %, Lymph:1.6 %, Mono:2.9 %, Eos:0.0 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:499 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   -leading dx amiodarone toxicity
   -amio d/c but given very long half life will be on board for months
   -on steroids
 no sig improvement noted so far
   -FOB/BAL unrevealing
 no foamy macrophages noted
   -some improvement in FiO2 requirement
   -rapidly failed SBT with hypoxemia & agitation lack of improvement
   concerning that will likely require trache unless rapidly begins to
   improve
   -check NIF.  NM weakness could explain rapid shallow breathing and
   difficulty coming off vent but no clear reasons why would have
 ? pulmonary fibrosis
   -no real evidence of fibrosis on CT chest so unlikely
 Afib
   remains in NSR
 Leukocytosis
   -slow rise - 20 today
   -afebrile last 24hr
   -cx data pending
 ANEMIA
   -hct stable
Hyperkalemia
   -slowly climbing 5.3 today
   -check EKG
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-1-4**] 07:10 PM
   20 Gauge - [**2151-1-10**] 02:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill

2151-01-12 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Likely family meeting on Thursday
   - Got Lasix, PM lytes stable --> hypernatremic though so increased free
   water flushes (100 q6). Also more edematous (B/LUE), though, so may
   wish to pull back in AM pending serum Na
   - NIFT (-33)
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2151-1-11**] 02:49 PM
   Heparin Sodium (Prophylaxis) - [**2151-1-12**] 12:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-12**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 64 (64 - 88) bpm
   BP: 129/47(67) {122/35(54) - 154/77(94)} mmHg
   RR: 19 (10 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.9 kg (admission): 67 kg
   Height: 65 Inch
             Total In:
                                                                  1,810 mL
                                                                    966 mL
   PO:
             TF:
                                                                  1,227 mL
                                                                    362 mL
   IVF:
                                                                    483 mL
                                                                    504 mL
   Blood products:
   Total out:
                                                                  2,975 mL
                                                                    625 mL
   Urine:
                                                                  2,375 mL
                                                                    425 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                 -1,165 mL
                                                                    341 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 460 (441 - 617) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 14 cmH2O
   SpO2: 94%
   ABG: ///35/
   NIF: -33 cmH2O
   Ve: 5.7 L/min
   Physical Examination
   General Appearance: No acute distress, intubated/sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : Dry crackles)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, 2+ bilateral hand/UE edema
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   326 K/uL
   8.7 g/dL
   148 mg/dL
   1.0 mg/dL
   35 mEq/L
   4.2 mEq/L
   60 mg/dL
   110 mEq/L
   150 mEq/L
   27.4 %
   21.9 K/uL
        [image002.jpg]
                             [**2151-1-9**]  12:42 AM
                             [**2151-1-9**]  03:36 AM
                             [**2151-1-9**]  10:53 AM
                             [**2151-1-9**]  04:34 PM
                             [**2151-1-10**]  02:12 AM
                             [**2151-1-10**]  10:51 AM
                             [**2151-1-10**]  03:35 PM
                             [**2151-1-11**]  02:35 AM
                             [**2151-1-11**]  04:31 PM
                             [**2151-1-12**]  02:42 AM
   WBC
   19.9
   20.7
   20.6
   21.9
   Hct
   26.7
   27.0
   26.9
   27.4
   Plt
   [**Telephone/Fax (3) 13362**]26
   Cr
   1.2
   1.3
   1.3
   1.2
   1.1
   1.1
   1.0
   TCO2
   26
   26
   32
   Glucose
   52
   167
   83
   165
   179
   160
   148
   Other labs: PT / PTT / INR:12.8/27.1/1.1, CK / CKMB /
   Troponin-T:293/4/0.02, ALT / AST:49/33, Alk Phos / T Bili:78/0.3,
   Differential-Neuts:95.3 %, Lymph:1.6 %, Mono:2.9 %, Eos:0.0 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:499 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Imaging: [**1-11**] CXR: In comparison with the study of [**1-10**], there is
   little overall
   change. Diffuse reticulonodular changes are again seen throughout both
   lungs. Again, this could reflect chronic interstitial disease, elevated
   pulmonary venous pressure, or an interstitial reaction to amiodarone as
   suggested in the clinical history. The overall opacification in the
   lungs, though prominent, is substantially less than on the study of
   [**12-31**]. This could reflect some decreasing congestion in a patient with CT
   evidence of pulmonary fibrosis.
   Microbiology: [**1-11**] C. Diff: Negative
   [**1-9**] BCx: NGTD
   [**1-9**] UCx: Negative
   [**1-5**] BAL: 2+ PMNs, no microorganisms
   Assessment and Plan
   89F intubated for worsening respiratory distress, hypoxia, on steroids
   for suspected Amiodarone lung toxicity.
   #. Hypoxia/Tachypnea: Did not tolerate decreased vent settings
   yesterday, so unable to perform SBT. Has been consistently difficult to
   wean from ventilator, despite steroid, antibiotic, diuretic therapy.
   CXR showing stable fluffy opacities, perhaps mildly increased right
   sided effusion today.  NIF ruled out mechanical/muscular etiologies
   patient also noted biting tube causing mild desats.
   ** Will optimize her physical status to increase chances of extubation:
   - Continue weaning vent settings as much as tolerated
   - Will consider Presidex vs. Propofol instead of current
   Fentanyl/Versed
   - Continue steroids, if ultimate dx is amio toxicity she will be on
   steroids 2-6 months
   - Single dose furosemide, given CXR findings and improving creatinine
   (goal -1.5L)
 PM lytes
   - Position her upright for extubation, SBT trial
   - Follow-up outstanding cultures, can consider resending sputum gram
   stain/cultures
   # Leukocytosis: [**Month (only) 51**] be partially [**12-29**] steroid effect. No fevers
   overnight. Increased stool output. Past culture data unrevealing so
   far. Cdiff negative from yesterday. Increasing WBC.
   - Follow-up cultures, re-culture if spikes
   - Consider re-bronch this afternoon and sending BAL/sputum samples for
   PCP or treating empirically
   # Hypernatremia: Free water deficit ~3.2L
   - Increased free water flushes and replace free water deficit
   - PM lytes
   #. AFIB: Continues to be in sinus rhythm off amio
   - Continue telemetry
   - Continue ASA 325 mg
   - If develops AF, rate control with beta blocker
   # [**Last Name (un) **]: Creatinine stable at 1.0. Increased
   - As above, giving small dose lasix today
   - Check PM lytes
   - Goal fluid balance: Even to negative 500 cc
   # Hyperkalemia: K+ of 5.3 yesterday. No EKG changes. Required 15 g + 30
   g of kayexelate to bring down to 4.6. Stable today at 4.3
   # Hyperglycemia: Fingersticks stable on insulin sliding scale. [**Month (only) 51**] bump
   with D5W.
   - Will continue to monitor
   #. Anemia: Chronic anemia, stable in high 20
s. Hemodynamically stable.
   - will monitor daily
   - Continue Fe supplementation
   - continue home PPI
   #. Orthostatic hypotension: pt intubated and not ambulatory
   - hold Florinef and phenylephrine  for now
   #. FEN
tube feeds per nutrition recs. Given recent cervical fracture,
   continuing Vit D, Calcium and Thiamine
   #. Access
 PICC line, PIV
   #. PPx -  PPI, SQ hep, Change bowel regimen to PRN, given diarrhea
   #. Communication - Family [**Doctor Last Name 837**] ([**Telephone/Fax (1) 13142**]) and [**Name (NI) 20**] (son) [**Name (NI) 653**]
   [**Telephone/Fax (1) 13143**].  Family meeting expected for later this week (Thursday)
   #. Code - Full Code (confirmed with patient and family)
   #. Dispo - ICU for now
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2151-1-12**] 02:09 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-1-4**] 07:10 PM
   20 Gauge - [**2151-1-10**] 02:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2151-01-13 05:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2151-1-12**] 03:56 PM
 STOOL CULTURE - At [**2151-1-12**] 04:35 PM
   c. diff
 SPUTUM CULTURE - At [**2151-1-12**] 04:35 PM
   BAL
   [**1-12**]:
   - Serum sodium from 150->140 in 16 hours on D5W and on free water tube
   feed flushes. D5W d/c'd, tube feed flushes scaled back. Recheck AM Na+
   to make sure not over-corrected
   - bronch'd
   - sedation changed to Precedex from Fent/Versed
   - SBT in AM?
   - diuresis goal: 500-1,000 cc? (we probably failed at this)
   Allergies:
   Morphine
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Dexmedetomidine (Precedex) - 0.2 mcg/Kg/hour
   Other ICU medications:
   Fentanyl - [**2151-1-12**] 03:40 PM
   Heparin Sodium (Prophylaxis) - [**2151-1-12**] 11:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-13**] 05:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 73 (63 - 78) bpm
   BP: 141/50(72) {106/31(51) - 155/58(83)} mmHg
   RR: 15 (9 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.9 kg (admission): 67 kg
   Height: 65 Inch
             Total In:
                                                                  4,032 mL
                                                                    358 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    283 mL
   IVF:
                                                                  2,432 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  2,695 mL
                                                                    420 mL
   Urine:
                                                                  2,490 mL
                                                                    420 mL
   NG:
                                                                      5 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,337 mL
                                                                    -62 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 460 (323 - 611) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: ///35/
   Ve: 7.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   347 K/uL
   9.2 g/dL
   153 mg/dL
   1.0 mg/dL
   35 mEq/L
   3.7 mEq/L
   59 mg/dL
   99 mEq/L
   141 mEq/L
   28.1 %
   22.5 K/uL
        [image002.jpg]
                             [**2151-1-9**]  10:53 AM
                             [**2151-1-9**]  04:34 PM
                             [**2151-1-10**]  02:12 AM
                             [**2151-1-10**]  10:51 AM
                             [**2151-1-10**]  03:35 PM
                             [**2151-1-11**]  02:35 AM
                             [**2151-1-11**]  04:31 PM
                             [**2151-1-12**]  02:42 AM
                             [**2151-1-12**]  07:37 PM
                             [**2151-1-13**]  03:28 AM
   WBC
   20.7
   20.6
   21.9
   22.5
   Hct
   27.0
   26.9
   27.4
   28.1
   Plt
   299
   310
   326
   347
   Cr
   1.3
   1.3
   1.2
   1.1
   1.1
   1.0
   1.0
   1.0
   TCO2
   26
   32
   Glucose
   167
   83
   165
   179
   160
   148
   213
   153
   Other labs: PT / PTT / INR:12.8/27.1/1.1, CK / CKMB /
   Troponin-T:293/4/0.02, ALT / AST:49/33, Alk Phos / T Bili:78/0.3,
   Differential-Neuts:95.3 %, Lymph:1.6 %, Mono:2.9 %, Eos:0.0 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:499 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 LEUKOCYTOSIS
 PNEUMONIA, OTHER
 ACIDOSIS, METABOLIC
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   pulmonary fibrosis
 BRADYCARDIA
 ANEMIA, OTHER
   Assessment and Plan
   89F intubated for worsening respiratory distress, hypoxia, on steroids
   for suspected Amiodarone lung toxicity.
   #. Hypoxia/Tachypnea: Did not tolerate decreased vent settings
   yesterday, so unable to perform SBT. Has been consistently difficult to
   wean from ventilator, despite steroid, antibiotic, diuretic therapy.
   CXR showing stable fluffy opacities, perhaps mildly increased right
   sided effusion today.  NIF ruled out mechanical/muscular etiologies
   patient also noted biting tube causing mild desats.
   ** Will optimize her physical status to increase chances of extubation:
   - Continue weaning vent settings as much as tolerated
   - Will consider Presidex vs. Propofol instead of current
   Fentanyl/Versed
   - Continue steroids, if ultimate dx is amio toxicity she will be on
   steroids 2-6 months
   - Single dose furosemide, given CXR findings and improving creatinine
   (goal -1.5L)
 PM lytes
   - Position her upright for extubation, SBT trial
   - Follow-up outstanding cultures, can consider resending sputum gram
   stain/cultures
   # Leukocytosis: [**Month (only) 51**] be partially [**12-29**] steroid effect. No fevers
   overnight. Increased stool output. Past culture data unrevealing so
   far. Cdiff negative from yesterday. Increasing WBC.
   - Follow-up cultures, re-culture if spikes
   - Consider re-bronch this afternoon and sending BAL/sputum samples for
   PCP or treating empirically
   # Hypernatremia: Free water deficit ~3.2L
   - Increased free water flushes and replace free water deficit
   - PM lytes
   #. AFIB: Continues to be in sinus rhythm off amio
   - Continue telemetry
   - Continue ASA 325 mg
   - If develops AF, rate control with beta blocker
   # [**Last Name (un) **]: Creatinine stable at 1.0. Increased
   - As above, giving small dose lasix today
   - Check PM lytes
   - Goal fluid balance: Even to negative 500 cc
   # Hyperkalemia: K+ of 5.3 yesterday. No EKG changes. Required 15 g + 30
   g of kayexelate to bring down to 4.6. Stable today at 4.3
   # Hyperglycemia: Fingersticks stable on insulin sliding scale. [**Month (only) 51**] bump
   with D5W.
   - Will continue to monitor
   #. Anemia: Chronic anemia, stable in high 20
s. Hemodynamically stable.
   - will monitor daily
   - Continue Fe supplementation
   - continue home PPI
   #. Orthostatic hypotension: pt intubated and not ambulatory
   - hold Florinef and phenylephrine  for now
   #. FEN
tube feeds per nutrition recs. Given recent cervical fracture,
   continuing Vit D, Calcium and Thiamine
   #. Access
 PICC line, PIV
   #. PPx -  PPI, SQ hep, Change bowel regimen to PRN, given diarrhea
   #. Communication - Family [**Doctor Last Name 837**] ([**Telephone/Fax (1) 13142**]) and [**Name (NI) 20**] (son) [**Name (NI) 653**]
   [**Telephone/Fax (1) 13143**].  Family meeting expected for later this week (Thursday)
   #. Code - Full Code (confirmed with patient and family)
   #. Dispo - ICU for now
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2151-1-12**] 10:03 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-1-4**] 07:10 PM
   20 Gauge - [**2151-1-10**] 02:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2151-01-14 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2151-1-13**] 04:34 PM
   .
   - Aerosol face mask 50% --> 40% with 93-98% O2 sats; coughs, unable to
   bring up much secretions, poor gag
   - Extubated. Per son, would choose re-intubation if needed overnight
   - Changed steroids to 1 mg/kg/day
   - negative 1 liter fluid balance. PM lytes bicarb creeping up to 37.
   Low K (repleted)
   - BAL: Negative gram stain, culture, PCP, [**Name10 (NameIs) 13402**]
   [**Name Initial (NameIs) **] Diff added to CBC: 96% polys, no bands
   Allergies:
   Morphine
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2151-1-13**] 09:45 AM
   Dextrose 50% - [**2151-1-14**] 04:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-14**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36
C (96.8
   HR: 64 (60 - 79) bpm
   BP: 122/49(65) {122/42(65) - 161/57(81)} mmHg
   RR: 18 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.8 kg (admission): 67 kg
   Height: 65 Inch
             Total In:
                                                                    696 mL
                                                                    197 mL
   PO:
             TF:
                                                                    403 mL
   IVF:
                                                                    294 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  1,947 mL
                                                                    610 mL
   Urine:
                                                                  1,947 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,251 mL
                                                                   -413 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (420 - 444) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 33
   SpO2: 99%
   ABG: 7.54/42/74/36/11
   Ve: 6.7 L/min
   PaO2 / FiO2: 247
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Diminished: at the bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   291 K/uL
   9.5 g/dL
   68 mg/dL
   0.8 mg/dL
   36 mEq/L
   3.5 mEq/L
   50 mg/dL
   101 mEq/L
   142 mEq/L
   29.4 %
   22.8 K/uL
        [image002.jpg]
                             [**2151-1-10**]  10:51 AM
                             [**2151-1-10**]  03:35 PM
                             [**2151-1-11**]  02:35 AM
                             [**2151-1-11**]  04:31 PM
                             [**2151-1-12**]  02:42 AM
                             [**2151-1-12**]  07:37 PM
                             [**2151-1-13**]  03:28 AM
                             [**2151-1-13**]  10:51 AM
                             [**2151-1-13**]  04:07 PM
                             [**2151-1-14**]  03:12 AM
   WBC
   20.6
   21.9
   22.5
   22.8
   Hct
   26.9
   27.4
   28.1
   29.4
   Plt
   [**Telephone/Fax (3) 13403**]91
   Cr
   1.2
   1.1
   1.1
   1.0
   1.0
   1.0
   0.9
   0.8
   TCO2
   32
   37
   Glucose
   165
   179
   160
   148
   [**Telephone/Fax (2) 13404**]
   Other labs: PT / PTT / INR:12.8/27.1/1.1, CK / CKMB /
   Troponin-T:293/4/0.02, ALT / AST:49/33, Alk Phos / T Bili:78/0.3,
   Differential-Neuts:96.1 %, Lymph:1.6 %, Mono:2.1 %, Eos:0.1 %, Lactic
   Acid:1.7 mmol/L, Albumin:2.8 g/dL, LDH:548 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   89F intubated for worsening respiratory distress, hypoxia, on steroids
   for suspected Amiodarone lung toxicity.
   #. Hypoxia/Tachypnea: Patient stable after extubation yesterday.
   Expressed desire, with son at bedside, for reintubation if necessary.
   CXR stable.
   - Continue steroids at 1mg/kg/day X2-6 months
   - C/w furosemide bolus, monitor I/O
s for day
   - Check PM lytes
   - C/w upright positioning when possible, close suctioning of
   secretions, monitoring gag
   - Will try to wean off aerosol face mask
   - Follow-up outstanding cultures, sputum negative
   # Leukocytosis: [**Month (only) 51**] be partially [**12-29**] steroid effect. Low grade temp
   99.4 this yesterday morning. Past culture data unrevealing so far.
   Cdiff negative. WBC stably high.
   - Follow-up cultures, re-culture if spikes
   # Hypernatremia: Resolved
   #. AFIB: Continues to be in sinus rhythm off amio
   - Continue telemetry
   - Continue ASA 325 mg
   - If develops AF, rate control with beta blocker
   # [**Last Name (un) **]: Creatinine stable at 0.8
   - Furosemide as above
   - Check PM lytes
   - Goal fluid balance: Even to negative 500 cc
   # Hyperglycemia: Fingersticks stable on insulin sliding scale.
   Currently off tube feeds so doses halved
   - Will continue to monitor
   #. Anemia: Chronic anemia, stable in high 20
s. Hemodynamically stable.
   - Will monitor daily
   - Continue Fe supplementation
   - continue home PPI
   #. Orthostatic hypotension: Patient still not ambulatory
   - hold Florinef and phenylephrine  for now  but consider restarting
   soon
   #. FEN
 Will do swallow trial at bedside and consider advancing diet
   or resuming tube feeds. Given recent cervical fracture, continuing Vit
   D, Calcium and Thiamine
   #. Access
 PICC line, PIV
   #. PPx -  PPI, SQ hep, Change bowel regimen to PRN, given diarrhea
   #. Communication - Family [**Doctor Last Name 837**] ([**Telephone/Fax (1) 13142**]) and [**Name (NI) 20**] (son) [**Name (NI) 653**]
   [**Telephone/Fax (1) 13143**].  Family meeting expected for later this week (Thursday)
   #. Code - Full Code (confirmed with patient and family)
   #. Dispo - ICU for now
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 LEUKOCYTOSIS
 PNEUMONIA, OTHER
 ACIDOSIS, METABOLIC
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   pulmonary fibrosis
 BRADYCARDIA
 ANEMIA, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-1-4**] 07:10 PM
   20 Gauge - [**2151-1-10**] 02:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2151-01-15 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - BAL negative for everything, CMV prelim neg
   - By 3:30pm, -1.5L since MN (270-400cc/hr)
   - Refusing FS, lab draws, turning, pulm toileting, PT etc
   - Resumed tube feeds - consider S&S tomorrow
   - Son thinks full code for now but amenable to DNR/DNI - will be in
   with family tomorrow for meeting
   Patient unable to provide history: Refusing to engage in conversation
   Allergies:
   Morphine
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2151-1-14**] 10:10 AM
   Heparin Sodium (Prophylaxis) - [**2151-1-14**] 04:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2151-1-15**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 74 (65 - 79) bpm
   BP: 142/47(71) {121/43(65) - 168/127(84)} mmHg
   RR: 23 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.8 kg (admission): 67 kg
   Height: 65 Inch
             Total In:
                                                                  1,118 mL
                                                                    439 mL
   PO:
             TF:
                                                                    633 mL
                                                                    367 mL
   IVF:
                                                                    340 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,655 mL
                                                                    320 mL
   Urine:
                                                                  2,655 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,537 mL
                                                                    119 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask , Aerosol-cool
   SpO2: 97%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress, Refusing exam
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Not assessed
   Labs / Radiology
   288 K/uL
   9.5 g/dL
   155 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.8 mEq/L
   49 mg/dL
   104 mEq/L
   142 mEq/L
   28.9 %
   22.9 K/uL
        [image002.jpg]
                             [**2151-1-10**]  03:35 PM
                             [**2151-1-11**]  02:35 AM
                             [**2151-1-11**]  04:31 PM
                             [**2151-1-12**]  02:42 AM
                             [**2151-1-12**]  07:37 PM
                             [**2151-1-13**]  03:28 AM
                             [**2151-1-13**]  10:51 AM
                             [**2151-1-13**]  04:07 PM
                             [**2151-1-14**]  03:12 AM
                             [**2151-1-15**]  02:18 AM
   WBC
   20.6
   21.9
   22.5
   22.8
   22.9
   Hct
   26.9
   27.4
   28.1
   29.4
   28.9
   Plt
   [**Telephone/Fax (3) 13403**]91
   288
   Cr
   1.2
   1.1
   1.1
   1.0
   1.0
   1.0
   0.9
   0.8
   0.8
   TCO2
   37
   Glucose
   165
   179
   160
   148
   [**Telephone/Fax (2) 13404**]
   155
   Other labs: PT / PTT / INR:12.8/27.1/1.1, CK / CKMB /
   Troponin-T:293/4/0.02, ALT / AST:49/33, Alk Phos / T Bili:78/0.3,
   Differential-Neuts:96.1 %, Lymph:1.6 %, Mono:2.1 %, Eos:0.1 %, Lactic
   Acid:1.7 mmol/L, Albumin:2.8 g/dL, LDH:548 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Imaging: [**1-13**] CXR: The ET tube tip is slightly less than 2 cm above the
   carina but is consistent with the flexion position of the patient's
   neck. Cardiomediastinal silhouette and widespread parenchymal opacities
   are unchanged. The NG tube tip is in the stomach.
   Microbiology: [**1-13**] BCx: Pending
   [**1-13**] UCx: Negative
   [**1-12**] C. Diff: negative
   [**1-12**] BAL:    GRAM STAIN (Final [**2151-1-12**]): NO PMN or microorganisms
      RESPIRATORY CULTURE: NO GROWTH, <1000 CFU/ml.
      PCP: [**Name10 (NameIs) **]
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      VIRAL CULTURE: R/O CMV (Preliminary):
         No Virus isolated so far.
   Assessment and Plan
   89F intubated for worsening respiratory distress, hypoxia, on steroids
   for suspected Amiodarone lung toxicity.
   #. Hypoxia/Tachypnea: Patient stable after extubation. Desaturates when
   off facemask
   - Continue steroids at 1mg/kg/day X2-6 months
   - C/w furosemide bolus, goal of 1 L negative
   - Check PM lytes
   - C/w upright positioning when possible, close suctioning of
   secretions, monitoring gag
   - Will try to wean off aerosol face mask  to nasal cannula gradually
   - Follow-up outstanding cultures, sputum negative
   # Leukocytosis: [**Month (only) 51**] be partially [**12-29**] steroid effect. Low grade temp
   99.4 yesterday morning. Past culture data unrevealing so far. Cdiff
   negative. WBC stably high.
   - Follow-up cultures, re-culture if spikes
   #. AFIB: Continues to be in sinus rhythm off amio x 1 week
   - Continue telemetry
   - Continue ASA 325 mg
   # Psychosocial: Increasing patient frustration with medical
   interventions and checks, including lab draws, physical exams, turning,
   etc.
   - Will have family meeting today to discuss with family re: Code
   Status, goals of care
   # [**Last Name (un) **]: Creatinine stable at 0.8
   - Furosemide as above
   - PM lytes
   # Hyperglycemia: Fingersticks slightly labile
   - Will continue to monitor closely on tubefeeds
   #. Anemia: Chronic anemia, stable in high 20s. Hemodynamically stable.
   - Will monitor daily
   - Continue Fe supplementation
   - continue home PPI
   #. Orthostatic hypotension: Patient still not ambulatory
   - hold Florinef and phenylephrine  for now
   #. FEN
 Tube feeds. Given recent cervical fracture, continuing Vit D,
   Calcium and Thiamine
   #. Access
 PICC line, PIV x1
   #. PPx -  PPI, SQ hep, PRN bowel regimen
   #. Communication - Family [**Doctor Last Name 837**] ([**Telephone/Fax (1) 13142**]) and [**Name (NI) 20**] (son) [**Name (NI) 653**]
   [**Telephone/Fax (1) 13143**].  Family meeting expected for later today to address code
   status (at family
s request)
   #. Code - Full Code (confirmed with patient and family)
   #. Dispo - ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-1-4**] 07:10 PM
   20 Gauge - [**2151-1-10**] 02:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: